US05608056
To a solution of methyl (2S,4R)-4-hydroxy-2-pyrrolidinecarboxylate hydrochloride (674 g) in dichloromethane (3.5 l) were added dropwise triethylamine (1.19 l) and benzyl chloride (552 ml) at 10°-20° C. under stirring and the mixture was refluxed for 6 hours. The mixture was cooled to ambient temperature, and the precipitates were removed by filtration. The filtrate was poured into 1N sodium hydroxide and extracted with dichloromethane. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo to give methyl (2S,4R)-1-benzyl-4-hydroxy-2-pyrrolidinecarboxylate (663 g).

reactant | methyl (2S,4R)-4-hydroxy-2-pyrrolidinecarboxylate hydrochloride | 674 g | Cl.O[C@@H]1C[C@H](NC1)C(=O)OC
reactant | triethylamine | 1.19 l | C(C)N(CC)CC | C6H15N
reactant | benzyl chloride | 552 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dichloromethane | 3.5 l | ClCCl | CH2Cl2
product | methyl (2S,4R)-1-benzyl-4-hydroxy-2-pyrrolidinecarboxylate | 663 g | C(C1=CC=CC=C1)N1[C@@H](C[C@H](C1)O)C(=O)OC | C13H17NO3
